US07361763B2
To a suspension of 3-[3-(2,6-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol (23 mg, 0.066 mmol) in dichloromethane (1 mL) at −78° C. was added 1 M boron tribromide solution in dichloromethane (0.23 mL, 0.23 mmol) dropwise. The reaction mixture was warmed up to room temperature over 4 h, then quenched with water and neutralized to pH 8 with a saturated solution of aqueous sodium bicarbonate. The mixture was extracted with EtOAc three times and the extracts were combined and adsorbed on silica gel. Purification on silica gel with a gradient of methanol/dichloromethane afforded 2-[5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-benzene-1,3-diol as a beige solid (17 mg, 81% yield). 1H NMR (500 MHz, DMSO-d6) δ 6.43 (d, J=8.0 Hz, 1H), 6.73 (dd, J=2.5, 7.5 Hz, 1H), 6.91 (t, J=8.0 Hz, 1H), 7.00 (t, J=2.0 Hz, 1H), 7.05 (d, J=8.0 Hz, 1H), 7.24 (t, J=8.0 Hz, 1H), 7.46 (d, J=2.5 Hz, 1H), 7.85 (d, J=2.0 Hz, 1H), 8.42 (d, J=2.0 Hz, 1H), 9.10 (broad s, 2H), 9.49 (broad s, 1H), 11.7 (s, 1H). MS: m/z 319 (M+H+).

reactant | 3-[3-(2,6-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol | 0.066 mmol, 23 mg | COC1=C(C(=CC=C1)OC)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C21H18N2O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.23 mmol, 0.23 mL | ClCCl | CH2Cl2
product | 2-[5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-benzene-1,3-diol | 17 mg, 81% yield | OC=1C=C(C=CC1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2O)O | C19H14N2O3
